US03950425
2-dimethylamino-6-chloro-1,2,3,4-tetrahydro-tribenzo(b,d,f) oxepine
To a mixture of 10 ml of dimethylamine and 3.1 ml of 98% formic acid at -10°C a solution of 11.5 g of 2-keto-6-chloro-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine in 30 ml of dimethylformamide are added dropwise. The mixture is refluxed for 10 hours. After cooling, the mixture is poured into water and extracted into ether. The ether layer is then washed with 300 ml of 2 N HCl. The acidic water layer is made alkaline with 2 N NaOH, after which the alkaline aqueous solution is extracted with ether once more. The ether layers are collected, dried and then evaporated. The oil obtained crystallizes as maleate: melting point 171°C.

reactant | dimethylamine | 10 ml | CNC | C2H7N
reactant | formic acid | 3.1 ml | C(=O)O | CH2O2
reactant | 2-keto-6-chloro-1,2,3,4-tetrahydro-tribenzo(b,d,f)-oxepine | 11.5 g | O=C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC(=C3)Cl)CC1 | C18H13ClO2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-dimethylamino-6-chloro-1,2,3,4-tetrahydro-tribenzo(b,d,f) oxepine | CN(C1CC2=C(C3=C(OC4=C2C=CC=C4)C=CC(=C3)Cl)CC1)C | C20H20ClNO
